US04937246
In ethanol (50 ml) is dissolved 3,4-dimethoxythiophenol (28 g), to the resulting mixture is added an ethanol solution (77 ml) of 2.5M sodium hydroxide, and the mixture is heated for 10 minutes under reflux. To the reaction mixture is then added τ-butyrolactone (18.5 g) and the mixture is heated for 3 hours under reflux. To the reaction mixture is added water (100 ml), then ethanol is distilled off under reduced pressure. The remaining aqueous solution is washed with ethyl acetate, and the aqueous layer is acidified with dilute hydrochloric acid. The mixture is extracted with ethyl acetate. The organic layer is washed with water and dried, followed by distilling off the solvent under reduced pressure. The residue is recrystallized from ether-hexane to afford 4-(3,4-dimethoxyphenylthio)butyric acid as colorless prisms (m.p. 78° C.) (20.5 g). Then, 4-(3,4dimethoxyphenylthio)butyric acid (14.5 g) is added to polyphosphoric acid (183 g), and the mixture is stirred at 100° C. for two hours. The reaction mixture is poured into ice-water (500 ml), followed by extraction with ethyl acetate. The organic layer is washed with water, dried, and concentrated under reduced pressure. The residue is purified by means of a silica gel column chromatography (eluent:hexane - ethyl acetate=5:1) to afford 7,8-dimethoxy-3,4-dihydro-1-benzothiepin-5(2H)-one (12.0 g). Recrystallization of the product from hexane - methylene chloride give colorless prisms, m.p. 128°-129° C.

reactant | 3,4-dimethoxythiophenol | 28 g | COC=1C=C(C=CC1OC)S | C8H10O2S
reactant | sodium hydroxide | 2.5M | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 77 ml | C(C)O | C2H6O
product | 4-(3,4-dimethoxyphenylthio)butyric acid | 20.5 g | COC=1C=C(C=CC1OC)SCCCC(=O)O | C12H16O4S
